US05089175
A suspension of 0.6 g of sodium hydride and 3 g of malonic acid ethyl ester dimethylamide in 30 ml of dimethylformamide is stirred for an hour at 22° C., mixed with 6.9 g of 1-acetoxy-11-bromoundecane and stirred for 16 hours at 50° C. Then the reaction mixture is stirred in 200 ml of ice water, extracted with ethyl acetate, the organic phase is dried on sodium sulfate and concentrated by evaporation in vacuum. Thus, 5.3 g of 11-acetoxyundecane malonic acid ethyl ester dimethylamide is obtained as light-yellow oil.

reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | malonic acid ethyl ester dimethylamide | 3 g | C[N-]C.C(C)OC(CC(=O)O)=O
reactant | 1-acetoxy-11-bromoundecane | 6.9 g | C(C)(=O)OCCCCCCCCCCCBr | C13H25BrO2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 11-acetoxyundecane malonic acid ethyl ester dimethylamide | 5.3 g | C[N-]C.C(C)OC(CC(=O)O)=O.C(C)(=O)OCCCCCCCCCCC | InChI=1S/C13H26O2.C5H8O4.C2H6N/c1-3-4-5-6-7-8-9-10-11-12-15-13(2)14;1-2-9-5(8)3-4(6)7;1-3-2/h3-12H2,1-2H3;2-3H2,1H3,(H,6,7);1-2H3/q;;-1
